US08541455B2
A mixture of 64 g (257.8 mmol) of diethyl benzylidenepropanedioate and 17 g (261 mmol) of potassium cyanide in 750 mL of EtOH and 75 mL of water is heated for 18 hours at 60° C. The medium is then concentrated under reduced pressure and taken up in 500 mL of brine and then extracted with Et2O (2×500 mL). The organic phases are dried over Na2SO4, filtered and then concentrated under reduced pressure. 43.5 g of ethyl 3-cyano-3-phenylpropanoate are obtained in the form of a solid, which is used without further purification in the following step.

reactant | diethyl benzylidenepropanedioate | 257.8 mmol, 64 g | C(C1=CC=CC=C1)=C(C(=O)OCC)C(=O)OCC | C14H16O4
reactant | potassium cyanide | 261 mmol, 17 g | [C-]#N.[K+]
solvent | EtOH | 750 mL | CCO | C2H6O
solvent | water | 75 mL | O | H2O
product | ethyl 3-cyano-3-phenylpropanoate | 43.5 g, Yield=83% | C(#N)C(CC(=O)OCC)C1=CC=CC=C1 | C12H13NO2
